US08012983B2
Step 1: Ethyl 5-(8-(4-((1S,4S)-5-isopropyl-2,5-diazabicyclo[2.2.1]heptan-2-yl)phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl)-1H-pyrazole-3-carboxylate
A mixture of ethyl 5-(tributylstannyl)-1H-pyrazole-3-carboxylate (109.0 mg, 0.25 mmol) (Heterocyles, 1992, 813-818), (5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-((1S,4S)-5-isopropyl-2,5-diazabicyclo[2.2.1]hept-2-yl)-phenyl]amine (163.0 mg, 0.38 mmol), and Pd(PPh3)2Cl2 (27.0 mg, 0.04 mmol) in THF (3 mL) is refluxed for 18 hours. After return to room temperature, solvent is removed under reduced pressure. Purification of the residue by silica gel column chromatography eluting with a mixture of DCM/7N NH3 in methanol (97/3) affords the title compound (35.0 mg, 28%).

reactant | ethyl 5-(tributylstannyl)-1H-pyrazole-3-carboxylate | 0.25 mmol, 109.0 mg | C(CCC)[Sn](C1=CC(=NN1)C(=O)OCC)(CCCC)CCCC
reactant | (5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-((1S,4S)-5-isopropyl-2,5-diazabicyclo[2.2.1]hept-2-yl)-phenyl]amine | 0.38 mmol, 163.0 mg | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2[C@@H]1CN([C@H](C2)C1)C(C)C | C19H22BrN7
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.04 mmol, 27.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl 5-(8-(4-((1S,4S)-5-isopropyl-2,5-diazabicyclo[2.2.1]heptan-2-yl)phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl)-1H-pyrazole-3-carboxylate | 35.0 mg, 28% | C(C)(C)N1[C@@H]2CN([C@H](C1)C2)C2=CC=C(C=C2)NC=2C=1N(C(=CN2)C2=CC(=NN2)C(=O)OCC)N=CN1 | C25H29N9O2
